US06107329
(S)-[1-Hydroxymethyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester
4-Hydroxypiperidine (6.7 mmol) and Boc-L-serine (6.4 mmol) were coupled according to Procedure A (60 hour reaction time) with the following workup: the reaction mixture was concentrated, the residue dissolved in chloroform and 1N NaOH (6 mL), and the resulting solution extracted repeatedly (ten or mor times) with chloroform. The chloroform extracts were concentrated and the residue purified by chromatography on silica gel eluted with 1-16% ethanol in dichloromethane. Yield 751 mg, 41%; HPLC (40/60) 2.72 minutes (96%).

reactant | 4-Hydroxypiperidine | 6.7 mmol | OC1CCNCC1 | C5H11NO
reactant | Boc-L-serine | 6.4 mmol | C(=O)(OC(C)(C)C)N[C@@H](CO)C(=O)O | C8H15NO5
product | (S)-[1-Hydroxymethyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CO)=O | C13H24N2O5
